US07429605B2
iii) [6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol
2.60 mg (68.44 mmol) lithium aluminium hydride were given to 110 ml tetrahydrofuran (THF) and stirred at room temperature (r. t.) for 20 min. A solution of 11.20 g (34.22 mmol) 6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-nicotinic acid methyl ester in 110 ml THF was added drop by drop at 0° C. within 15 min., and the mixture stirred for 2 h at 0° C. 140 ml brine were added slowly at 0° C. and stirred continued for 1 h. The mixture was adjusted to pH=5 by slowly addition of conc. HCl. A formed salt precipitate was isolated by filtration and washed with THF. The combined THF-solutions were evaporated, the residue extracted twice with ethyl acetate, the organic phase dried (sodium sulphate) and evaporated. The obtained material (9.69 g, 99%) used without further purification.

reactant | lithium aluminium hydride | 68.44 mmol, 2.60 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-nicotinic acid methyl ester | 34.22 mmol, 11.20 g | COC(C1=C(N=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)F)C)=O | C15H11F4NO2
reactant | HCl | Cl | ClH
solvent | THF | 110 ml | O1CCCC1 | C4H8O
solvent | brine | 140 ml | [Cl-].[Na+].O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | [6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol | FC1=C(C=CC(=C1)C(F)(F)F)C1=CC=C(C(=N1)C)CO | C14H11F4NO
